US07109354B2
b) 6-{3-[3′-[5-(tert-Butoxycarbonylamino-imino-methyl)-2-methylsulfanyl-thiophene-3-sulfonyl]-6-methyl-4-(2-trimethylsilanyl-ethoxycarbonylamino)-biphenyl-2-yl]-ureido}-hexanoic acid
A solution of 6-{3-[3′-[5-(tert-butoxycarbonylamino-imino-methyl)-2-methylsulfanyl-thiophene-3-sulfonyl]-6-methyl-4-(2-trimethylsilanyl-ethoxycarbonylamino)-biphenyl-2-yl]-ureido}-hexanoic acid ethyl ester ((Example 259: step a) 0.437 g, 0.507 mmol) in THF:water (2:1, 15 mL) was treated with solid LiOH (0.097 g, 4.06 mmol) and stirred at room temperature 18.5 h. The THF was removed in vacuo, and the remaining aqueous solution was acidified to pH 5 with glacial acetic acid. The solution was extracted with CH2Cl2 (3×50 mL). The combined organic layers were dried over MgSO4 and concentrated in vacuo to afford the title compound (0.4222 g, 99%) as an off-white solid. ESI-MS (m/z): Calcd. for C37H51N5O9S3Si (M+H): 834.3; 834.2.

reactant | 6-{3-[3′-[5-(tert-butoxycarbonylamino-imino-methyl)-2-methylsulfanyl-thiophene-3-sulfonyl]-6-methyl-4-(2-trimethylsilanyl-ethoxycarbonylamino)-biphenyl-2-yl]-ureido}-hexanoic acid ethyl ester | C(C)OC(CCCCCNC(=O)NC1=C(C(=CC(=C1)NC(=O)OCC[Si](C)(C)C)C)C1=CC(=CC=C1)S(=O)(=O)C1=C(SC(=C1)C(=N)NC(=O)OC(C)(C)C)SC)=O | C39H55N5O9S3Si
reactant | LiOH | 4.06 mmol, 0.097 g | [Li+].[OH-]
solvent | THF water | 15 mL | C1CCOC1.O
product | 6-{3-[3′-[5-(tert-Butoxycarbonylamino-imino-methyl)-2-methylsulfanyl-thiophene-3-sulfonyl]-6-methyl-4-(2-trimethylsilanyl-ethoxycarbonylamino)-biphenyl-2-yl]-ureido}-hexanoic acid | 0.4222 g, 99% | C(C)(C)(C)OC(=O)NC(C1=CC(=C(S1)SC)S(=O)(=O)C=1C=C(C=CC1)C1=C(C=C(C=C1C)NC(=O)OCC[Si](C)(C)C)NC(NCCCCCC(=O)O)=O)=N | C37H51N5O9S3Si
